US05830906
A) 1-tert-Butoxycarbonyl-4-carboxy-4-phenylpiperidine
32.9 g of K2CO3 are added to a mixture of 30 g of 4-carboxy-4-phenylpiperidine p-toluenesulphonate in 300 ml of dioxane and 30 ml of water, the mixture is then heated to 60° C. and 18.2 g of di-tert-butyl dicarbonate are added dropwise. The mixture is thereafter heated for 2 hours to 60° C. and then for 30 minutes to reflux. After cooling to RT, the reaction mixture is concentrated under vacuum, the residue is extracted with DCM, the organic phase is washed with a pH 2 buffer solution, with 2N HCl solution to pH 4, with a pH 2 buffer solution, with water and with saturated NaCl solution and dried over MgSO4 and the solvent is evaporated off under vacuum. 23.7 g of the expected product are obtained.

reactant | K2CO3 | 32.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-carboxy-4-phenylpiperidine p-toluenesulphonate | 30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(=O)(O)C1(CCNCC1)C1=CC=CC=C1
reactant | di-tert-butyl dicarbonate | 18.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | 1-tert-Butoxycarbonyl-4-carboxy-4-phenylpiperidine | 23.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C(=O)O | C17H23NO4
